US06548506B2
7-Fluoro-8-[4-(4-fluorobenzyl)piperazin-1-yl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid was prepared under the conditions of Example 2, but from 1.6 g of 8-chloro-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid and 5 g of 4-(4-fluorobenzyl)piperazine in 16 cm3 of pyridine. After recrystallizing twice from 25 cm3 of dimethylformamide on each occasion, 1.4 g of 7-fluoro-8-[4-(4-fluorobenzyl)piperazin-1-yl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid were obtained in the form of a yellow solid melting at about 311° C.

reactant | 8-chloro-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.6 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)F | C14H8ClFN2O3
reactant | 4-(4-fluorobenzyl)piperazine | 5 g | FC1=CC=C(CN2CCNCC2)C=C1 | C11H15FN2
solvent | pyridine | 16 cm3 | N1=CC=CC=C1 | C5H5N
product | 7-fluoro-8-[4-(4-fluorobenzyl)piperazin-1-yl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.4 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1N1CCN(CC1)CC1=CC=C(C=C1)F | C25H22F2N4O3
